*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:06:49 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TLATNXL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TLATNXL GN D Q QN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET GN 2.57184e-16
*|P (GN X 0 2.1000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 1.8675 0.4525)
*|I (Mmp0:g Mmp0 g X 0 2.0175 1.3725)
*|S (GN:1 2.0900 1.0400)
*|S (GN:2 2.0175 1.0400)
C1 Mmp0:g VSS 3.64587e-17
C2 Mmn0:g VSS 4.3196e-17
C3 GN:2 VSS 3.80155e-17
C4 GN:1 VSS 2.9187e-17
C5 GN VSS 1.10327e-16
Rl1 GN:1 GN:2 50.746933 $W=0.114
Rl2 GN:2 Mmn0:g 203.093048 $W=0.039
Rl3 GN:2 Mmp0:g 69.785851 $W=0.039
Rk4 GN:1 GN 0.003000 $W=0.1
*
*|NET D 2.89188e-16
*|P (D X 0 0.3000 1.0450)
*|I (Mmn5:g Mmn5 g X 0 0.4475 0.4475)
*|I (Mmp5:g Mmp5 g X 0 0.4475 1.2325)
*|S (D:2 0.4200 1.0150)
*|S (D:4 0.4200 1.0150)
C6 Mmp5:g VSS 3.68335e-17
C7 Mmn5:g VSS 8.98017e-17
C8 D:2 VSS 1.23867e-16
C9 D VSS 3.86855e-17
Rl5 D:2 Mmn5:g 177.614838 $W=0.039
Rl6 Mmp5:g D:2 29.537928 $W=0.039
Rk7 D:4 D 0.043177 $W=0.172
Rk8 D:2 D:4 45.000000 $W=0.182
*
*|NET Q 7.84293e-17
*|P (Q X 0 3.1000 0.6650)
*|I (Mmn21:d Mmn21 d X 0 3.0675 0.4525)
*|I (Mmp21:d Mmp21 d X 0 3.0675 1.0075)
C10 Mmp21:d VSS 2.45396e-17
C11 Mmn21:d VSS 2.28657e-17
C12 Q VSS 3.1024e-17
Rk9 Q Mmn21:d 75.120018 $W=0.1
Rk10 Q Mmp21:d 62.177029 $W=0.1
*
*|NET QN 1.82155e-16
*|P (QN X 0 2.3000 0.4750)
*|I (Mmn22:d Mmn22 d X 0 2.2800 0.4525)
*|I (Mmp22:d Mmp22 d X 0 2.3150 1.3725)
*|S (QN:2 2.2900 0.4650)
C13 Mmp22:d VSS 9.13185e-17
C14 QN VSS 9.08368e-17
Rk11 QN:2 QN 0.006001 $W=0.1
Rk12 Mmn22:d QN:2 75.000000 $W=0.1035
Rk13 QN Mmp22:d 62.510098 $W=0.1
*
*|NET GNb 9.22368e-16
*|I (Mmn1:g Mmn1 g X 0 0.2425 0.4475)
*|I (Mmn6:g Mmn6 g X 0 0.5525 0.4475)
*|I (Mmn0:d Mmn0 d X 0 1.7175 0.4525)
*|I (Mmp1:g Mmp1 g X 0 0.2425 1.2325)
*|I (Mmp16:g Mmp16 g X 0 1.0925 1.2325)
*|I (Mmp0:d Mmp0 d X 0 1.9450 1.3725)
*|S (GNb:2 0.2700 0.6550)
*|S (GNb:5 0.5800 0.6300)
*|S (GNb:7 0.9900 0.9700)
*|S (GNb:9 1.7350 1.3850)
*|S (GNb:10 0.8300 1.0000)
C15 Mmp0:d VSS 2.74302e-17
C16 Mmp16:g VSS 5.03006e-17
C17 Mmp1:g VSS 5.89185e-17
C18 Mmn0:d VSS 1.17978e-16
C19 Mmn6:g VSS 6.36477e-17
C20 Mmn1:g VSS 3.03211e-17
C21 GNb:10 VSS 1.24561e-16
C22 GNb:9 VSS 1.63329e-16
C23 GNb:2 VSS 9.45969e-17
C24 GNb:5 VSS 1.20493e-16
C25 GNb:7 VSS 7.07922e-17
Rl14 GNb:2 Mmn1:g 39.153313 $W=0.039
Rl15 Mmn6:g GNb:5 74.537926 $W=0.039
Rl16 Mmp1:g GNb:2 167.999466 $W=0.039
Rl17 Mmp16:g GNb:7 106.515656 $W=0.039
Rk18 GNb:5 GNb:2 45.212269 $W=0.09
Rk19 GNb:10 GNb:7 0.086563 $W=0.1
Rk20 GNb:10 GNb:5 0.443390 $W=0.09
Rk21 GNb:9 GNb:10 0.924575 $W=0.08
Rk22 Mmn0:d GNb:9 75.717751 $W=0.08
Rk23 GNb:9 Mmp0:d 62.128067 $W=0.1
*
*|NET GNbb 3.67618e-16
*|I (Mmn1:d Mmn1 d X 0 0.1350 0.4475)
*|I (Mmn16:g Mmn16 g X 0 0.7825 0.4475)
*|I (Mmp1:d Mmp1 d X 0 0.1500 1.2325)
*|I (Mmp6:g Mmp6 g X 0 0.7825 1.2325)
*|S (GNbb:2 0.7825 1.0275)
*|S (GNbb:3 0.6400 1.0250)
*|S (GNbb:7 0.1400 1.2800)
C26 Mmp6:g VSS 2.64829e-17
C27 Mmp1:d VSS 8.55627e-17
C28 Mmn16:g VSS 5.63905e-17
C29 Mmn1:d VSS 6.37787e-17
C30 GNbb:2 VSS 3.3939e-17
C31 GNbb:3 VSS 1.01464e-16
Rl24 GNbb:2 GNbb:3 77.353729 $W=0.039
Rl25 GNbb:2 Mmn16:g 193.464310 $W=0.039
Rl26 Mmp6:g GNbb:2 35.771992 $W=0.039
Rk27 GNbb:7 GNbb:3 0.486998 $W=0.08
Rk28 Mmn1:d GNbb:7 75.570869 $W=0.09
Rk29 Mmp1:d GNbb:7 62.000000 $W=0.09
*
*|NET net257 0
*|I (Mmn5:d Mmn5 d X 0 0.5000 0.4475)
*|I (Mmn6:s Mmn6 s X 0 0.5000 0.4475)
Rmw30 Mmn6:s Mmn5:d 0.001000 $W=1
*
*|NET n0 4.26324e-16
*|I (Mmn6:d Mmn6 d X 0 0.6675 0.4475)
*|I (Mmn10:g Mmn10 g X 0 1.3025 0.4475)
*|I (Mmp6:d Mmp6 d X 0 0.9375 1.2325)
*|I (Mmp10:g Mmp10 g X 0 1.4625 1.2325)
*|S (n0:2 1.3300 0.6550)
*|S (n0:4 1.1500 0.6850)
C32 Mmp10:g VSS 6.16314e-17
C33 Mmp6:d VSS 7.98461e-17
C34 Mmn10:g VSS 2.47223e-17
C35 Mmn6:d VSS 6.40307e-17
C36 n0:4 VSS 9.66535e-17
C37 n0:2 VSS 9.94395e-17
Rl31 n0:2 Mmn10:g 34.410446 $W=0.039
Rl32 Mmp10:g n0:2 194.207962 $W=0.039
Rk33 n0:2 n0:4 45.131428 $W=0.09
Rk34 n0:4 Mmn6:d 75.478004 $W=0.09
Rk35 n0:4 Mmp6:d 62.427452 $W=0.08
*
*|NET net245 7.16463e-18
*|I (Mmn16:s Mmn16 s X 0 0.9400 0.4475)
*|I (Mmn15:d Mmn15 d X 0 0.9400 0.4475)
C38 Mmn16:s VSS 7.16463e-18
Rmw36 Mmn15:d Mmn16:s 0.001000 $W=1
*
*|NET Qint 9.1745e-16
*|I (Mmn15:g Mmn15 g X 0 1.0975 0.4475)
*|I (Mmn10:d Mmn10 d X 0 1.3950 0.4475)
*|I (Mmn22:g Mmn22 g X 0 2.1875 0.4525)
*|I (Mmn20:g Mmn20 g X 0 2.7575 0.4525)
*|I (Mmp15:g Mmp15 g X 0 1.1975 1.2325)
*|I (Mmp10:d Mmp10 d X 0 1.6050 1.1850)
*|I (Mmp22:g Mmp22 g X 0 2.2225 1.3725)
*|I (Mmp20:g Mmp20 g X 0 2.7575 1.0075)
*|S (Qint:1 1.3100 0.8750)
*|S (Qint:2 1.1975 0.8750)
*|S (Qint:6 2.7575 0.7625)
*|S (Qint:7 2.2275 0.7625)
*|S (Qint:9 2.1600 0.2700)
*|S (Qint:12 1.4900 0.3700)
*|S (Qint:13 1.4900 0.8450)
C39 Mmp20:g VSS 2.82388e-17
C40 Mmp22:g VSS 6.04517e-17
C41 Mmp10:d VSS 5.87406e-17
C42 Mmp15:g VSS 6.90984e-17
C43 Mmn20:g VSS 3.65732e-17
C44 Mmn22:g VSS 1.16642e-17
C45 Mmn10:d VSS 3.08221e-17
C46 Mmn15:g VSS 5.41825e-17
C47 Qint:13 VSS 5.9586e-17
C48 Qint:12 VSS 1.66766e-16
C49 Qint:7 VSS 4.52468e-17
C50 Qint:6 VSS 3.96434e-17
C51 Qint:2 VSS 4.30873e-17
C52 Qint:1 VSS 6.34852e-17
C53 Qint:9 VSS 1.49863e-16
Rl37 Qint:1 Qint:2 54.904327 $W=0.094
Rl38 Qint:6 Qint:7 195.502930 $W=0.039
Rl39 Qint:2 Mmn15:g 153.125931 $W=0.039
Rl40 Mmn22:g Qint:9 74.537926 $W=0.039
Rl41 Qint:7 Mmn22:g 96.565804 $W=0.039
Rl42 Qint:6 Mmn20:g 89.618149 $W=0.039
Rl43 Qint:2 Mmp15:g 92.021820 $W=0.039
Rl44 Qint:7 Mmp22:g 187.982498 $W=0.039
Rl45 Mmp20:g Qint:6 51.156605 $W=0.039
Rk46 Qint:9 Qint:12 1.003351 $W=0.08
Rk47 Qint:13 Qint:1 0.101392 $W=0.09
Rk48 Qint:12 Qint:13 0.309298 $W=0.08
Rk49 Qint:12 Mmn10:d 75.023811 $W=0.25
Rk50 Qint:13 Mmp10:d 62.277821 $W=0.09
*
*|NET Qbint 2.3392e-16
*|I (Mmn20:d Mmn20 d X 0 2.6650 0.4525)
*|I (Mmn21:g Mmn21 g X 0 2.9625 0.4525)
*|I (Mmp20:d Mmp20 d X 0 2.6650 1.0075)
*|I (Mmp21:g Mmp21 g X 0 2.9625 1.0075)
*|S (Qbint:2 2.9625 0.6300)
*|S (Qbint:3 2.9000 0.6300)
*|S (Qbint:5 2.6650 0.6400)
C54 Mmp21:g VSS 3.79508e-17
C55 Mmp20:d VSS 3.48738e-17
C56 Mmn21:g VSS 2.83678e-17
C57 Mmn20:d VSS 2.76169e-17
C58 Qbint:5 VSS 2.89849e-17
C59 Qbint:2 VSS 1.91063e-17
C60 Qbint:3 VSS 5.7019e-17
Rl51 Qbint:2 Qbint:3 47.016560 $W=0.094
Rl52 Qbint:2 Mmn21:g 36.252586 $W=0.039
Rl53 Mmp21:g Qbint:2 99.714119 $W=0.039
Rk54 Qbint:3 Qbint:5 0.119337 $W=0.1
Rk55 Qbint:5 Mmn20:d 75.108719 $W=0.1
Rk56 Qbint:5 Mmp20:d 62.195736 $W=0.1
*
*|NET net220 6.33193e-18
*|I (Mmp5:d Mmp5 d X 0 0.6150 1.2325)
*|I (Mmp6:s Mmp6 s X 0 0.6150 1.2325)
C61 Mmp5:d VSS 6.33193e-18
Rmw57 Mmp6:s Mmp5:d 0.001000 $W=1
*
*|NET net212 7.7467e-19
*|I (Mmp16:s Mmp16 s X 0 1.1450 1.2325)
*|I (Mmp15:d Mmp15 d X 0 1.1450 1.2325)
C62 Mmp16:s VSS 7.7467e-19
Rmw58 Mmp15:d Mmp16:s 0.001000 $W=1
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02465P	AS=0.0232P	PD=0.63U	PS=0.61U
+ fw=1.45e-07 sa=1.7e-07 sb=1.2e-06 sca=10.2779 scb=0.00944477 scc=0.000275883
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=3.75e-07 sb=9.95e-07 sca=10.2779 scb=0.00944477 scc=0.000275883
Mmn6	Mmn6:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02682P	AS=0.0087P	PD=0.66U	PS=0.41U
+ fw=1.45e-07 sa=4.8e-07 sb=8.9e-07 sca=10.2779 scb=0.00944477 scc=0.000275883
Mmn16	Mmn6:d	Mmn16:g	Mmn16:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02682P	AS=0.03915P	PD=0.66U	PS=0.83U
+ fw=1.45e-07 sa=7.1e-07 sb=6.6e-07 sca=10.2779 scb=0.00944477 scc=0.000275883
Mmn15	Mmn15:d	Mmn15:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03915P	AS=0.0232P	PD=0.83U	PS=0.61U
+ fw=1.45e-07 sa=1.025e-06 sb=3.45e-07 sca=10.2779 scb=0.00944477 scc=0.000275883
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.23e-06 sb=1.4e-07 sca=10.2779 scb=0.00944477 scc=0.000275883
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03698P	AS=0.03988P	PD=0.8U	PS=0.84U
+ fw=1.45e-07 sa=2.55e-07 sb=4.6e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.03988P	PD=0.57U	PS=0.84U
+ fw=1.45e-07 sa=5.75e-07 sb=1.4e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=3.7e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02393P	AS=0.0232P	PD=0.62U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=1.65e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0573P	PD=0.71U	PS=1.47U
+ fw=2.15e-07 sa=1.4e-07 sb=1.34233e-06 sca=21.1459 scb=0.0238169 scc=0.000917416
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.06235P	AS=0.0573P	PD=1.01U	PS=1.47U
+ fw=2.15e-07 sa=3.45e-07 sb=1.13733e-06 sca=14.0472 scb=0.012275 scc=0.000208339
Mmp6	Mmp6:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05697P	AS=0.06235P	PD=0.96U	PS=1.01U
+ fw=2.15e-07 sa=6.8e-07 sb=8.02326e-07 sca=11.5667 scb=0.00927227 scc=0.000188008
Mmp16	Mmp6:d	Mmp16:g	Mmp16:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05697P	AS=0.0129P	PD=0.96U	PS=0.55U
+ fw=2.15e-07 sa=9.9e-07 sb=4.92326e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp15	Mmp15:d	Mmp15:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.0821P	PD=0.55U	PS=1.45U
+ fw=2.15e-07 sa=1.095e-06 sb=3.87326e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0263P	AS=0.0821P	PD=0.71U	PS=1.45U
+ fw=2.15e-07 sa=1.36e-06 sb=1.22326e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0269P	AS=0.0344P	PD=0.72U	PS=0.75U
+ fw=2.15e-07 sa=1.25116e-07 sb=3.45e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp22	Mmp22:d	Mmp22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=3.30116e-07 sb=1.4e-07 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=3.7e-07 sca=48.8019 scb=0.0316124 scc=0.00590646
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03548P	AS=0.0344P	PD=0.76U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.65e-07 sca=56.1973 scb=0.0435219 scc=0.00667686
.ENDS
.END
