*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:07:05 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "TLATSRX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  TLATSRX2 D SN Q G RN QN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 2.40311e-16
*|P (D X 0 0.5000 0.8550)
*|I (Mmn5:g Mmn5 g X 0 0.6225 0.3825)
*|I (Mmp5:g Mmp5 g X 0 0.6225 1.1125)
*|S (D:2 0.5950 0.7200)
C1 Mmp5:g VSS 4.1062e-17
C2 Mmn5:g VSS 3.33651e-17
C3 D:2 VSS 1.08198e-16
C4 D VSS 5.76857e-17
Rl1 D:2 Mmn5:g 89.153305 $W=0.039
Rl2 Mmp5:g D:2 96.845619 $W=0.039
Rk3 D:2 D 45.035686 $W=0.24
*
*|NET SN 2.75226e-16
*|P (SN X 0 3.1000 1.0450)
*|I (Mmn10:g Mmn10 g X 0 3.0875 0.5175)
*|I (Mmp10:g Mmp10 g X 0 3.0875 1.1900)
*|S (SN:2 3.1250 0.8550)
C5 Mmp10:g VSS 3.91672e-17
C6 Mmn10:g VSS 6.73079e-17
C7 SN:2 VSS 9.75678e-17
C8 SN VSS 7.11826e-17
Rl4 SN:2 Mmn10:g 76.155907 $W=0.039
Rl5 Mmp10:g SN:2 55.002056 $W=0.039
Rk6 SN SN:2 45.090889 $W=0.125
*
*|NET Q 1.47384e-16
*|P (Q X 0 4.5000 0.8550)
*|I (Mmn21:d Mmn21 d X 0 4.3050 0.4900)
*|I (Mmp21:d Mmp21 d X 0 4.3050 1.1500)
*|S (Q:3 4.3050 0.5600)
C9 Mmp21:d VSS 6.635e-17
C10 Mmn21:d VSS 2.41995e-17
C11 Q VSS 5.68348e-17
Rk7 Q:3 Q 0.184761 $W=0.1
Rk8 Q:3 Mmn21:d 75.000000 $W=0.1
Rk9 Mmp21:d Q 20.915289 $W=0.09
*
*|NET G 2.12312e-16
*|P (G X 0 2.3000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 2.2625 0.3825)
*|I (Mmp1:g Mmp1 g X 0 2.3175 1.1425)
*|S (G:2 2.2900 0.8500)
*|S (G:4 2.2900 0.8500)
C12 Mmp1:g VSS 2.57718e-17
C13 Mmn1:g VSS 3.79599e-17
C14 G:2 VSS 3.33356e-17
C15 G VSS 1.15245e-16
Rl10 G:2 Mmn1:g 139.560440 $W=0.039
Rl11 Mmp1:g G:2 59.615387 $W=0.039
Rk12 G:4 G 0.002999 $W=0.1
Rk13 G:2 G:4 45.000000 $W=0.1
*
*|NET RN 3.07078e-16
*|P (RN X 0 1.9000 1.0450)
*|I (Mmn15:g Mmn15 g X 0 1.7025 0.3825)
*|I (Mmn0:g Mmn0 g X 0 1.9675 0.3825)
*|I (Mmp15:g Mmp15 g X 0 1.8025 1.1425)
*|I (Mmp0:g Mmp0 g X 0 1.9975 1.1425)
*|S (RN:2 1.8400 0.9350)
*|S (RN:3 1.8025 0.5525)
*|S (RN:7 1.8400 0.9350)
C16 Mmp0:g VSS 2.9705e-17
C17 Mmp15:g VSS 2.60194e-17
C18 Mmn0:g VSS 3.01316e-17
C19 Mmn15:g VSS 4.46259e-17
C20 RN:3 VSS 3.82708e-17
C21 RN:2 VSS 1.14128e-16
C22 RN VSS 2.4197e-17
Rl14 RN:2 RN:3 125.837402 $W=0.039
Rl15 RN:3 Mmn15:g 65.362511 $W=0.039
Rl16 RN:3 Mmn0:g 90.362511 $W=0.039
Rl17 RN:2 Mmp15:g 24.232828 $W=0.039
Rl18 Mmp0:g RN:2 71.429771 $W=0.039
Rk19 RN RN:7 0.069300 $W=0.1
Rk20 RN:2 RN:7 45.000000 $W=0.1
*
*|NET QN 1.9658e-16
*|P (QN X 0 3.7000 0.6650)
*|I (Mmn22:d Mmn22 d X 0 3.4700 0.4900)
*|I (Mmp22:d Mmp22 d X 0 3.4850 1.1500)
*|S (QN:2 3.5050 0.6550)
*|S (QN:4 3.4850 0.4750)
C23 Mmp22:d VSS 7.77013e-17
C24 Mmn22:d VSS 3.02786e-17
C25 QN:2 VSS 4.67064e-17
C26 QN VSS 4.18934e-17
Rk21 QN:2 QN 0.114250 $W=0.1
Rk22 QN:4 QN:2 0.129634 $W=0.1
Rk23 QN:4 Mmn22:d 75.000000 $W=0.1
Rk24 QN:2 Mmp22:d 21.030218 $W=0.08
*
*|NET Gb 1.03204e-15
*|I (Mmn2:g Mmn2 g X 0 0.3025 0.3825)
*|I (Mmn17:g Mmn17 g X 0 1.3425 0.3825)
*|I (Mmn1:d Mmn1 d X 0 2.3550 0.3825)
*|I (Mmp2:g Mmp2 g X 0 0.3575 1.1125)
*|I (Mmp6:g Mmp6 g X 0 1.0025 1.1125)
*|I (Mmp0:d Mmp0 d X 0 2.1575 1.1425)
*|S (Gb:2 0.3300 0.5650)
*|S (Gb:5 1.0500 0.8050)
*|S (Gb:7 1.3700 0.6650)
*|S (Gb:10 2.1000 1.1900)
*|S (Gb:11 1.0500 0.5300)
C27 Mmp0:d VSS 1.98682e-16
C28 Mmp6:g VSS 3.2111e-17
C29 Mmp2:g VSS 4.79479e-17
C30 Mmn1:d VSS 1.30095e-16
C31 Mmn17:g VSS 3.75285e-17
C32 Mmn2:g VSS 2.27463e-17
C33 Gb:11 VSS 1.42395e-16
C34 Gb:2 VSS 1.27856e-16
C35 Gb:5 VSS 9.70256e-17
C36 Gb:7 VSS 1.95651e-16
Rl25 Gb:2 Mmn2:g 29.945055 $W=0.039
Rl26 Mmn17:g Gb:7 112.999466 $W=0.039
Rl27 Mmp2:g Gb:2 157.692307 $W=0.039
Rl28 Mmp6:g Gb:5 108.712402 $W=0.039
Rk29 Gb:10 Gb:7 0.864783 $W=0.06
Rk30 Gb:7 Gb:11 0.806393 $W=0.08
Rk31 Gb:11 Gb:5 0.224659 $W=0.08
Rk32 Gb:11 Gb:2 45.493660 $W=0.08
Rk33 Mmn1:d Gb:10 75.882515 $W=0.08
Rk34 Mmp0:d Gb:10 62.000000 $W=0.08
*
*|NET Gbb 4.49756e-16
*|I (Mmn2:d Mmn2 d X 0 0.1950 0.3825)
*|I (Mmn6:g Mmn6 g X 0 0.8975 0.3825)
*|I (Mmp2:d Mmp2 d X 0 0.2650 1.1125)
*|I (Mmp17:g Mmp17 g X 0 1.2075 1.1125)
*|S (Gbb:2 0.8600 0.7000)
*|S (Gbb:6 0.2550 1.1600)
C37 Mmp17:g VSS 7.83962e-17
C38 Mmp2:d VSS 1.03025e-16
C39 Mmn6:g VSS 2.88243e-17
C40 Mmn2:d VSS 6.30604e-17
C41 Gbb:2 VSS 1.7645e-16
Rl35 Gbb:2 Mmn6:g 80.002060 $W=0.039
Rl36 Mmp17:g Gbb:2 236.092575 $W=0.039
Rk37 Gbb:6 Gbb:2 45.706329 $W=0.08
Rk38 Mmn2:d Gbb:6 75.550621 $W=0.09
Rk39 Mmp2:d Gbb:6 62.000000 $W=0.09
*
*|NET net191 0
*|I (Mmn5:d Mmn5 d X 0 0.7600 0.3825)
*|I (Mmn6:s Mmn6 s X 0 0.7600 0.3825)
Rmw40 Mmn6:s Mmn5:d 0.001000 $W=1
*
*|NET n5 7.02878e-16
*|I (Mmn6:d Mmn6 d X 0 1.1200 0.3825)
*|I (Mmn11:g Mmn11 g X 0 2.9825 0.5175)
*|I (Mmp6:d Mmp6 d X 0 1.1050 1.1125)
*|I (Mmp11:g Mmp11 g X 0 2.7825 1.1900)
*|S (n5:2 2.7450 0.9350)
*|S (n5:5 1.1050 1.0650)
C42 Mmp11:g VSS 2.64188e-17
C43 Mmp6:d VSS 2.46198e-16
C44 Mmn11:g VSS 7.09682e-17
C45 Mmn6:d VSS 1.01511e-16
C46 n5:2 VSS 2.57781e-16
Rl41 Mmn11:g n5:2 176.477188 $W=0.039
Rl42 n5:2 Mmp11:g 24.232828 $W=0.039
Rk43 n5:2 n5:5 46.724819 $W=0.08
Rk44 n5:5 Mmn6:d 75.567337 $W=0.0605
Rk45 Mmp6:d n5:5 62.000000 $W=0.08
*
*|NET net171 4.64568e-19
*|I (Mmn17:s Mmn17 s X 0 1.4700 0.3825)
*|I (Mmn16:d Mmn16 d X 0 1.4700 0.3825)
C47 Mmn17:s VSS 4.64568e-19
Rmw46 Mmn16:d Mmn17:s 0.001000 $W=1
*
*|NET net167 1.12865e-18
*|I (Mmn16:s Mmn16 s X 0 1.6500 0.3825)
*|I (Mmn15:d Mmn15 d X 0 1.6500 0.3825)
C48 Mmn16:s VSS 1.12865e-18
Rmw47 Mmn15:d Mmn16:s 0.001000 $W=1
*
*|NET Qint 1.00372e-15
*|I (Mmn16:g Mmn16 g X 0 1.5975 0.3825)
*|I (Mmn11:d Mmn11 d X 0 2.8900 0.5175)
*|I (Mmn22:g Mmn22 g X 0 3.3525 0.4900)
*|I (Mmn20@1:g Mmn20@1 g X 0 3.7925 0.4900)
*|I (Mmp16:g Mmp16 g X 0 1.5975 1.1425)
*|I (Mmp11:d Mmp11 d X 0 2.9350 1.1900)
*|S (Qint:3 1.5600 0.2100)
*|S (Qint:18 2.8800 0.6650)
*|S (Qint:20 2.8800 0.4750)
C49 Mmp11:d VSS 9.95585e-17
C50 Mmp16:g VSS 6.96299e-17
C51 Mmn20@1:g VSS 1.3872e-16
C52 Mmn22:g VSS 1.99468e-16
C53 Mmn11:d VSS 1.59207e-16
C54 Mmn16:g VSS 6.41278e-17
C55 Qint:18 VSS 6.32249e-17
C56 Qint:3 VSS 2.09783e-16
Rl48 Mmn16:g Qint:3 69.232826 $W=0.039
Rl49 Mmn20@1:g Mmn22:g 72.348000 $W=0.039
Rl50 Mmp16:g Mmn16:g 223.076920 $W=0.039
Rk51 Qint:20 Qint:3 1.392792 $W=0.08
Rk52 Qint:20 Qint:18 0.133889 $W=0.1
Rk53 Qint:20 Mmn11:d 75.000000 $W=0.1
Rk54 Qint:18 Mmn22:g 45.284355 $W=0.08
Rk55 Qint:18 Mmp11:d 31.424006 $W=0.08
*
*|NET net159 1.73155e-18
*|I (Mmn0:d Mmn0 d X 0 2.1150 0.3825)
*|I (Mmn1:s Mmn1 s X 0 2.1150 0.3825)
C57 Mmn0:d VSS 1.73155e-18
Rmw56 Mmn1:s Mmn0:d 0.001000 $W=1
*
*|NET net183 0
*|I (Mmn11:s Mmn11 s X 0 3.0350 0.5175)
*|I (Mmn10:d Mmn10 d X 0 3.0350 0.5175)
Rmw57 Mmn10:d Mmn11:s 0.001000 $W=1
*
*|NET Qbint 3.0881e-16
*|I (Mmn20@1:d Mmn20@1 d X 0 3.8950 0.4900)
*|I (Mmn21:g Mmn21 g X 0 4.2025 0.4900)
*|I (Mmp20@1:d Mmp20@1 d X 0 3.8950 1.1500)
*|S (Qbint:7 3.8950 0.7450)
C58 Mmp20@1:d VSS 8.58784e-17
C59 Mmn21:g VSS 1.71668e-16
C60 Mmn20@1:d VSS 2.34549e-17
C61 Qbint:7 VSS 2.78082e-17
Rk58 Qbint:7 Mmn20@1:d 75.134056 $W=0.1
Rk59 Qbint:7 Mmn21:g 45.162495 $W=0.0965
Rk60 Qbint:7 Mmp20@1:d 20.961756 $W=0.09
*
*|NET net142 8.18643e-18
*|I (Mmp5:d Mmp5 d X 0 0.8125 1.1125)
*|I (Mmp6:s Mmp6 s X 0 0.8125 1.1125)
C62 Mmp5:d VSS 8.18643e-18
Rmw61 Mmp6:s Mmp5:d 0.001000 $W=1
*
*|NET net103 1.09575e-16
*|I (Mmp17:s Mmp17 s X 0 1.3000 1.1125)
*|I (Mmp16:d Mmp16 d X 0 1.7000 1.1425)
C63 Mmp16:d VSS 6.08162e-17
C64 Mmp17:s VSS 4.87589e-17
Rk62 Mmp16:d Mmp17:s 124.233887 $W=0.1
*
*Instance Section
*
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02465P	AS=0.03988P	PD=0.63U	PS=0.84U
+ fw=1.45e-07 sa=1.7e-07 sb=2e-06 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03335P	AS=0.03987P	PD=0.75U	PS=0.84U
+ fw=1.45e-07 sa=4.9e-07 sb=1.78e-06 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn6	Mmn6:d	Mmn6:g	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.058P	AS=0.03335P	PD=1.09U	PS=0.75U
+ fw=1.45e-07 sa=7.65e-07 sb=1.505e-06 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn17	Mmn6:d	Mmn17:g	Mmn17:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.058P	AS=0.03045P	PD=1.09U	PS=0.71U
+ fw=1.45e-07 sa=1.21e-06 sb=1.06e-06 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn16	Mmn16:d	Mmn16:g	Mmn16:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03045P	AS=0.0087P	PD=0.71U	PS=0.41U
+ fw=1.45e-07 sa=1.465e-06 sb=8.05e-07 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn15	Mmn15:d	Mmn15:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.0499P	PD=0.41U	PS=1.03U
+ fw=1.45e-07 sa=1.57e-06 sb=7e-07 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03625P	AS=0.0499P	PD=0.79U	PS=1.03U
+ fw=1.45e-07 sa=1.835e-06 sb=4.35e-07 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.03625P	PD=0.57U	PS=0.79U
+ fw=1.45e-07 sa=2e-06 sb=1.4e-07 sca=8.15925 scb=0.00587019 scc=8.94977e-05
Mmn11	Mmn11:d	Mmn11:g	Mmn11:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.0123P	PD=0.69U	PS=0.53U
+ fw=2.05e-07 sa=1.4e-07 sb=1.565e-06 sca=15.0894 scb=0.0156086 scc=0.00108313
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0123P	AS=0.0506P	PD=0.53U	PS=0.96U
+ fw=2.05e-07 sa=2.45e-07 sb=1.46e-06 sca=15.0894 scb=0.0156086 scc=0.00108313
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0494P	AS=0.0461P	PD=0.9U	PS=0.9U	M=2
+ fw=2.6e-07 sa=4.23269e-07 sb=1.195e-06 sca=13.5771 scb=0.0135427 scc=0.000870653
Mmn20@1	Mmn20@1:d	Mmn20@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U	M=2
+ fw=2.6e-07 sa=8.63269e-07 sb=7.55e-07 sca=13.5771 scb=0.0135427 scc=0.000870653
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.039P	PD=0.84U	PS=0.82U	M=2
+ fw=2.6e-07 sa=1.27327e-06 sb=3.45e-07 sca=13.5771 scb=0.0135427 scc=0.000870653
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0665P	PD=0.71U	PS=1.19U
+ fw=2.15e-07 sa=1.4e-07 sb=9.9e-07 sca=22.2113 scb=0.0236966 scc=0.00141807
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.07203P	AS=0.0665P	PD=1.1U	PS=1.19U
+ fw=2.15e-07 sa=4.05e-07 sb=7.25e-07 sca=18.6067 scb=0.017995 scc=0.00131765
Mmp6	Mmp6:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.07203P	PD=0.75U	PS=1.1U
+ fw=2.15e-07 sa=7.85e-07 sb=3.45e-07 sca=17.4145 scb=0.0172865 scc=0.00131682
Mmp17	Mmp6:d	Mmp17:g	Mmp17:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=9.9e-07 sb=1.4e-07 sca=17.4145 scb=0.0172865 scc=0.00131682
Mmp16	Mmp16:d	Mmp16:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0489P	PD=0.75U	PS=1.53U
+ fw=2.15e-07 sa=1e-07 sb=2e-06 sca=14.8993 scb=0.0146069 scc=0.000816972
Mmp15	Mmp16:d	Mmp15:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.05965P	PD=0.75U	PS=1.63U
+ fw=2.15e-07 sa=3.05e-07 sb=2e-06 sca=14.8993 scb=0.0146069 scc=0.000816972
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05913P	AS=0.05965P	PD=0.98U	PS=1.63U
+ fw=2.15e-07 sa=5e-07 sb=2e-06 sca=14.8993 scb=0.0146069 scc=0.000816972
Mmp1	Mmp0:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05913P	AS=0.12245P	PD=0.98U	PS=2.17U
+ fw=2.15e-07 sa=8.2e-07 sb=2e-06 sca=14.8993 scb=0.0146069 scc=0.000816972
Mmp11	Mmp11:d	Mmp11:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0806P	AS=0.12245P	PD=1.14U	PS=2.17U
+ fw=3.1e-07 sa=9.21855e-07 sb=1.765e-06 sca=13.3668 scb=0.0122284 scc=0.000582667
Mmp10	Mmp11:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0806P	AS=0.0855P	PD=1.14U	PS=1.28U
+ fw=3.1e-07 sa=1.22685e-06 sb=1.46e-06 sca=13.3668 scb=0.0122284 scc=0.000582667
Mmp22	Mmp22:d	Mmn22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.07395P	PD=1.1U	PS=1.19U	M=2
+ fw=3.9e-07 sa=1.23019e-06 sb=1.165e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp20@1	Mmp20@1:d	Mmn20@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0624P	PD=1.1U	PS=1.1U	M=2
+ fw=3.9e-07 sa=1.47756e-06 sb=7.55e-07 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp21	Mmp21:d	Mmn21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0585P	PD=1.1U	PS=1.08U	M=2
+ fw=3.9e-07 sa=1.66154e-06 sb=3.45e-07 sca=19.7386 scb=0.0168744 scc=0.00159746
.ENDS
.END
